US08426408B2
(1S,2S,3R,4R)-3-({5-chloro-2-[(1-cyclobutyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide
The title compound was prepared as described in Example 1, substituting 1-cyclobutyl-1H-pyrazol-4-yl-amine for 1-methyl-1H-pyrazol-4-amine in Example 1B along with substitution of (+)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide for (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide and 2,4,5-trichloropyrimidine for 2,4-dichloro-5-fluoropyrimidine in Example 1A. 1H NMR (300 MHz, DMSO-d6) ppm 1.42 (d, J=8.82 Hz, 1H) 1.71-1.83 (m, 2H) 2.11 (d, J=8.82 Hz, 1H) 2.29-2.46 (m, 4H) 2.77 (s, 1H) 2.88 (s, 1H) 4.14 (t, J=7.97 Hz, 1H) 4.65-4.81 (m, 1H) 6.28 (d, J=8.48 Hz, 1H) 6.38 (d, J=8.14 Hz, 1H) 7.24 (s, 1H) 7.53 (s, 1H) 7.68 (s, 1H) 7.79 (s, 2H) 7.89 (s, 1H) 9.09 (s, 1H); MS (ESI(+)) m/e 400 (M+H)+.

reactant | 1-methyl-1H-pyrazol-4-amine | CN1N=CC(=C1)N | C4H7N3
reactant | (+/−)-(1S,2S,3R,4R)-3-aminobicyclo[2.2.1]hept-5-ene-2-carboxamide | N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C8H12N2O
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
product | (1S,2S,3R,4R)-3-({5-chloro-2-[(1-cyclobutyl-1H-pyrazol-4-yl)amino]pyrimidin-4-yl}amino)bicyclo[2.2.1]hept-5-ene-2-carboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C1CCC1)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N | C19H22ClN7O
